US08420640B2
4-Bromo-2-nitrophenol (5.0 g, 23 mmol) and sodium hydride (0.6 g, 25.3 mmol) were suspended in DMF (50 ml). Methyl iodide (3.9 mL, 28 mmol) was added dropwise at room temperature and stirred for 30 minutes. Water was added slowly to reaction mixture to get precipitate of 4-bromo-2-nitroanisole (0.67 g), 90% yield. The crude solid that was used without further purification. 1H NMR (500 MHz, CDCl3): δ 3.98 (s, 3H), 7.03 (d, J=8.9 Hz, 1H), 7.68 (dd, J=2.45 Hz, 1H), 8.01 (d, J=2.45 Hz, 1H). 13C NMR (500 MHz, CDCl3): δ 56.9, 112.0, 115.3, 128.5, 137.1, 140.2, 152.3.

reactant | 4-Bromo-2-nitrophenol | 23 mmol, 5.0 g | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | sodium hydride | 25.3 mmol, 0.6 g | [H-].[Na+]
reactant | Methyl iodide | 28 mmol, 3.9 mL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-nitroanisole | 0.67 g, 90% yield | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
